US05541198
In 300 ml of dimethylformamide were dissolved 89 g of 6-(3-chloropropoxy)-3,4-dihydrocarbostyril and 110 g of 1-(4-bromo-2-methylphenyl)-2-mercaptoimidazole. To the solution was slowly added 66.7 g of potassium carbonate at room temperature. The mixture was stirred at 80° C. for 2 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was extracted with ethyl acetate. The oily layer was washed with water thoroughly, washed with an aqueous solution saturated with sodium chloride, dried with anhydrous magnesium sulfate, and subjected to distillation to remove the solvent. The resulting brown oil was purified by a silica gel column chromatography (eluant: chloroform/methanol=50/1). The resulting crude crystals were recrystallized from ethanol to obtain 118 g of 6-{3-[1-(2-methyl-4-bromophenyl)-2-imidazolylthio]propoxy}-3,4-dihydrocarbostyril.

reactant | 6-(3-chloropropoxy)-3,4-dihydrocarbostyril | 89 g | ClCCCOC=1C=C2CCC(NC2=CC1)=O | C12H14ClNO2
reactant | 1-(4-bromo-2-methylphenyl)-2-mercaptoimidazole | 110 g | BrC1=CC(=C(C=C1)N1C(=NC=C1)S)C | C10H9BrN2S
reactant | potassium carbonate | 66.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 6-{3-[1-(2-methyl-4-bromophenyl)-2-imidazolylthio]propoxy}-3,4-dihydrocarbostyril | 118 g | CC1=C(C=CC(=C1)Br)N1C(=NC=C1)SCCCOC=1C=C2CCC(NC2=CC1)=O | C22H22BrN3O2S
